US05608056
A solution of (2S,4R)-1-benzyloxycarbonyl-4-methanesulfonyloxy-2-[(Z)-2-(pyridin-3-yl)vinyl]pyrrolidine (4.13 g), conc. hydrochloric acid (1.71 ml), 10% palladium on carbon (50% wet) (2.0 g) in methanol (80 ml) was stirred for 4 hours under atmospheric pressure of hydrogen at ambient temperature. After the catalyst was filtered off, the filtrate was evaporated in vacuo. The resulting residue was dissolved in a mixture of tetrahydrofuran (40 ml) and water (40 ml). To the solution was added dropwise a solution of allyl chloroformate (1.52 ml) in tetrahydrofuran (5 ml) with stirring, while keeping the pH to 8~10 with 4N aqueous sodium hydroxide under ice-cooling. The mixture was stirred at the same condition for 1 hour. The reaction mixture was evaporated in vacuo. The resulting residue was dissolved in ethyl acetate (200 ml). The organic layer was washed with saturated sodium chloride, dried over anhydrous magnesium sulfate and evaporated in vacuo. The resulting residue was chromatographed on silica gel (150 g) eluting with a mixture of chloroform and methanol (19:1, V/V). The fractions containing the desired compound were collected and evaporated in vacuo to give (2R,4R)-1-allyloxycarbonyl-4-methanesulfonyloxy-2-[2-(pyridin-3-yl)ethyl]pyrrolidine (3.40 g).

reactant | (2S,4R)-1-benzyloxycarbonyl-4-methanesulfonyloxy-2-[(Z)-2-(pyridin-3-yl)vinyl]pyrrolidine | 4.13 g | C(C1=CC=CC=C1)OC(=O)N1[C@@H](C[C@H](C1)OS(=O)(=O)C)\C=C/C=1C=NC=CC1 | C20H22N2O5S
reactant | hydrochloric acid | 1.71 ml | Cl | ClH
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 2.0 g | [Pd] | Pd
solvent | methanol | 80 ml | CO | CH4O
product | (2R,4R)-1-allyloxycarbonyl-4-methanesulfonyloxy-2-[2-(pyridin-3-yl)ethyl]pyrrolidine | 3.40 g | C(C=C)OC(=O)N1[C@@H](C[C@H](C1)OS(=O)(=O)C)CCC=1C=NC=CC1 | C16H22N2O5S
